US08106059B2
The material from Step 2 was dissolved in ethanol (25 mL) and hydrogenated over 10% Pd on carbon (1.2 gm) for 18 hours at atmospheric pressure. The mixture was filtered through a pad of celite, acidified with 1N hydrochloric acid, and evaporated to dryness under reduced pressure. This product was taken up into dichloromethane (150 mL) and treated successively with di-tert-butyl dicarbonate (12.5 gm, 1.2 eq), dimethylaminopyridine (40 mgm) and triethylamine (17.5 mL, 2.2 eq) at 0° C. After two hours at 0° C. the reaction mixture was diluted with ethyl acetate, and washed successively with 1N hydrochloric acid, water, brine, and then dried over anhydrous sodium sulfate. Evaporation of the organic layer under reduced pressure gave crude product, which was purified by silica gel chromatography, eluting with 5% ethyl acetate/hexane, to provide N-tert-butyloxycarbonyl-octahydrocyclopenta-[c]pyrrole (7.69 gm).

reactant | di-tert-butyl dicarbonate | 12.5 gm, 1.2 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | triethylamine | 17.5 mL, 2.2 eq | C(C)N(CC)CC | C6H15N
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd on carbon | 1.2 gm | [Pd] | Pd
product | N-tert-butyloxycarbonyl-octahydrocyclopenta-[c]pyrrole | 7.69 gm | C(C)(C)(C)OC(=O)N1CC2C(C1)CCC2 | C12H21NO2
